* C:\Users\gasto\OneDrive\Documentos\UTN\Dispositivos-electronicos-I\tp5\simulaciones\ej2.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 Va Vg 0 TN815-800H
D1 N003 Vg D
R1 N001 N002 {1K5+(5K-p)}
R2 N002 N004 {p}
R3 N002 N003 1K
R4 Va N001 1K
V1 N001 0 SINE(0 20 50)
C1 N004 0 4.7µ
.model D D
.lib C:\Users\gasto\AppData\Local\LTspice\lib\cmp\standard.dio
.include models/st_standard_sensitive_scr.lib
.step param p 100 5K 500
.tran 0 1 .96 1m
.backanno
.end
